US07732435B2
2-Bromo-1-[2-(tert-butyl-dimethyl-silanyloxy)-4-(4-methoxy-benzyloxy)-phenyl]-4-methyl-pentane-1,3-dione
1-[2-(tert-Butyl-dimethyl-silanyloxy)-4-(4-methoxy-benzyloxy)-phenyl]-1-hydroxy-4-methyl-pent-1-en-3-one (5.81 g, 12.72 mmol) is dissolved in dry dichloromethane (100 ml) at room temperature. N-bromosuccinimide (2.38 g, 13.36 mmol) is added portionwise. The reaction mixture is stirred at room temperature for 30 minutes, poured into water (200 ml) and extracted with dichloromethane (3×75 ml). The dichloromethane extracts are combined, washed with saturated brine (100 ml), dried (MgSO4), filtered and evaporated to give a pale yellow solid.

reactant | 1-[2-(tert-Butyl-dimethyl-silanyloxy)-4-(4-methoxy-benzyloxy)-phenyl]-1-hydroxy-4-methyl-pent-1-en-3-one | 12.72 mmol, 5.81 g | C(C)(C)(C)[Si](OC1=C(C=CC(=C1)OCC1=CC=C(C=C1)OC)C(=CC(C(C)C)=O)O)(C)C | C26H36O5Si
reactant | N-bromosuccinimide | 13.36 mmol, 2.38 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Bromo-1-[2-(tert-butyl-dimethyl-silanyloxy)-4-(4-methoxy-benzyloxy)-phenyl]-4-methyl-pentane-1,3-dione | BrC(C(=O)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)O[Si](C)(C)C(C)(C)C)C(C(C)C)=O | C26H35BrO5Si
